US05595995
(+)-(R)-1-(4-Pyridyl)ethyl 1-adamantanecarboxylate
The method followed that described in Example 1, but using (+)-(R)-1-(4-pyridyl)ethanol (369 mg, 3.0 mmol) in THF (12 ml), n-butyllithium (2.5 M, 1.2 ml, 3.0 mmol) in hexane, and 1-adamantanecarbonyl chloride (656 mg, 3.3 mmol) in THF (3 ml). Chromatography, on elution with petrol-ether-triethylamine 200:50:1, afforded the title compound (754 mg, 88%). [α]D +25.8° (c 1, CHCl3); IR νmax 1730 cm-1 ; 1H-NMR (CDCl3) δ1.50 (3H, d, J 6.6 Hz, CHCH3), 1.73 and 1.93 (12H, 2s, adamantyl CH2), 2.04 (3H, s, adamantyl CH), 5.80 (1H, q, J 6.6 Hz, OCH), 7.23 (2H, d, J 6.1 Hz, Py 3 and 5H), 8.58 (2H, d, J 6.1 Hz, Py 2 and 6H); MS m/z 285 (M+). By passing hydrogen chloride gas through a solution of the product in ether, the hydrochloride was obtained, m.p. 164°-166° C. Anal. Calcd: C, 67.17; H, 7.52; N, 4.35. Found: C, 67.58; H, 7.51; N, 4.36%.

reactant | (+)-(R)-1-(4-pyridyl)ethanol | 3.0 mmol, 369 mg | N1=CC=C(C=C1)[C@@H](C)O | C7H9NO
reactant | n-butyllithium | 3.0 mmol, 2.5 M, 1.2 ml | C(CCC)[Li]
reactant | 1-adamantanecarbonyl chloride | 3.3 mmol, 656 mg | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (+)-(R)-1-(4-Pyridyl)ethyl 1-adamantanecarboxylate | 754 mg, 88% | C12(CC3CC(CC(C1)C3)C2)C(=O)O[C@H](C)C2=CC=NC=C2 | C18H23NO2
